US06376491B1
A mixture of 3-methyl-4-[3-(piperidin-4-ylamino)-propoxy]-benzofuran-2-carboxylic acid ethyl ester (15 mg), 3-(chloromethyl)pyridine hydrochloride (8 mg) and N,N-diisopropylethylamine (22 μl) in ethanol (1.5 ml) was stirred overnight at 70° C. The reaction mixture was dissolved in ethyl acetate and washed with saturated ammonium chloride solution and water. The organic solvent was dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by silica gel column chromatography (dichloromethane-MeOH) to afford 3-methyl-4-[3-(1-pyridin-3-ylmethyl-piperidin-4-ylamino)-propoxy]-benzofuran-2-carboxylic acid ethyl ester (8 mg) as a colorless oil. FAB-MS: m/z 452 (MH+); 1H-NMR (CDCl3): δ 1.43 (3H, t, J=7 Hz), 1.60 (2H, m), 2.00 (4H, m), 2.20 (2H, quintet, J=6.5 Hz), 2.70 (1H, m), 2.72 (3H, s), 2.86 (2H, br d, J=12 Hz), 2.99 (2H, t, J=7 Hz), 3.49 (2H, s), 4.15 (2H, t, J=6 Hz), 4.43 (2H, q, J=7 Hz), 6.59 (1H, d, J=8 Hz), 7.11 (1H, d, J328 Hz), 7.22 (1H, m), 7.29 (1H, t, J=8 Hz), 7.66 (1H, brd, J=8 Hz), 8.48 (1H, m), 8.51 (1H, br s).

reactant | 3-methyl-4-[3-(piperidin-4-ylamino)-propoxy]-benzofuran-2-carboxylic acid ethyl ester | 15 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNC2CCNCC2 | C20H28N2O4
reactant | 3-(chloromethyl)pyridine hydrochloride | 8 mg | Cl.ClCC=1C=NC=CC1
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methyl-4-[3-(1-pyridin-3-ylmethyl-piperidin-4-ylamino)-propoxy]-benzofuran-2-carboxylic acid ethyl ester | 8 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNC2CCN(CC2)CC=2C=NC=CC2 | C26H33N3O4
